US09315458B2
C) methyl 5-(4-chlorobenzyl)-2-formyl-3,4-dimethylbenzoate
To a solution of methyl 5-(4-chlorobenzyl)-3,4-dimethyl-2-vinylbenzoate (0.17 g) in a mixed solvent of acetone (4.00 mL)-acetonitrile (4.00 mL)-water (4.00 mL) were added osmium oxide (fixed catalyst I) (0.07 g) and sodium periodate (0.58 g), and the mixture was stirred overnight at room temperature under argon atmosphere. The reaction mixture was filtered, the filtrate was concentrated under reduced pressure, and the residue was extracted with ethyl acetate. The organic layer was washed with water and saturated brine, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (0.02 g).

reactant | methyl 5-(4-chlorobenzyl)-3,4-dimethyl-2-vinylbenzoate | 0.17 g | ClC1=CC=C(CC=2C(=C(C(=C(C(=O)OC)C2)C=C)C)C)C=C1 | C19H19ClO2
reactant | acetone | 4.00 mL | CC(=O)C | C3H6O
reactant | acetonitrile | 4.00 mL | C(C)#N | C2H3N
reactant | sodium periodate | 0.58 g | I(=O)(=O)(=O)[O-].[Na+]
catalyst | osmium oxide | [Os]=O
catalyst | osmium oxide | 0.07 g | [Os]=O
solvent | water | 4.00 mL | O | H2O
product | methyl 5-(4-chlorobenzyl)-2-formyl-3,4-dimethylbenzoate | 0.02 g | ClC1=CC=C(CC=2C(=C(C(=C(C(=O)OC)C2)C=O)C)C)C=C1 | C18H17ClO3
